### PR TITLE
[Merged by Bors] - feat: add isOpen_setOf_affineIndependent

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From sphere-eversion.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 1]
```diff
@@ -269,6 +269,21 @@ theorem isOpen_setOf_nat_le_rank (n : ℕ) :
...
+  rcases isEmpty_or_nonempty ι with h | ⟨⟨i₀⟩⟩
+  · exact isOpen_discrete _
+  · simp_rw [affineIndependent_iff_linearIndependent_vsub 𝕜 _ i₀]
+    let ι' := { x // x ≠ i₀ }
+    cases nonempty_fintype ι
+    haveI : Fintype ι' := Subtype.fintype _
+    convert_to
+      IsOpen ((fun (p : ι → E) (i : ι') ↦ p i -ᵥ p i₀) ⁻¹' {p : ι' → E | LinearIndependent 𝕜 p})
+    refine isOpen_setOf_linearIndependent.preimage ?_
+    exact continuous_pi fun i' ↦
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean:284]: Can `fun_prop` prove this goal? If no, please either add missing `@[fun_prop]`s or add a `TODO`.
Otherwise LGTM. Thanks!
bors d+

**Comment by grunweg** [comment]
Hi! I'm coming here from doing PR triage. I would love for this PR to get merged; sphere-eversion should eventually end up in mathlib! Is there a way to help you here, or is this just waiting on you finding a moment to investigate? Thanks!

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 2]
```diff
@@ -270,6 +270,20 @@ theorem isOpen_setOf_nat_le_rank (n : ℕ) :
...
+  rcases isEmpty_or_nonempty ι with h | ⟨⟨i₀⟩⟩
+  · exact isOpen_discrete _
+  · simp_rw [affineIndependent_iff_linearIndependent_vsub 𝕜 _ i₀]
+    let ι' := { x // x ≠ i₀ }
+    cases nonempty_fintype ι
+    haveI : Fintype ι' := Subtype.fintype _
+    convert_to
+      IsOpen ((fun (p : ι → E) (i : ι') ↦ p i -ᵥ p i₀) ⁻¹' {p : ι' → E | LinearIndependent 𝕜 p})
+    refine isOpen_setOf_linearIndependent.preimage ?_
+    fun_prop
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean]:
```suggestion
    exact isOpen_setOf_linearIndependent.preimage (by fun_prop)
```

**Comment by Ruben-VandeVelde** [comment]
bors r+

Apologies for the delay here, I lost track of the PR
